* DTD123EK DIGITAL NPN BJT model
* Date: 2007/01/12
* BJT with resistors
*****************C B E
.SUBCKT DTD123EK 1 2 3
R1 2 Base Rb 2.2k
R2 Base 3 Re 2.2k
Q1 1 Base 3 QDTD1
.MODEL Rb RES
+ R=1
.MODEL Re RES
+ R=1
.MODEL QDTD1 NPN
+ IS=100.00E-15
+ BF=182.90
+ VAF=10
+ IKF=.95804
+ ISE=100.00E-15
+ NE=1.5784
+ BR=76.281
+ VAR=100
+ IKR=.13306
+ ISC=330.91E-15
+ NC=1.2215
+ NK=.60402
+ RE=.2
+ RB=2.2699
+ RC=.10912
+ CJE=69.306E-12
+ MJE=.56335
+ CJC=16.457E-12
+ MJC=.37273
+ TF=600.00E-12
+ XTF=255.99
+ VTF=4.7633
+ ITF=24.538
+ TR=100.00E-9
+ XTB=1.5000
.ENDS DTD123EK
